US05767285
A solution of 300 mg (1.68 mmol) of 3-(2-propenyloxy)benzoic acid in 5 mL of methylene chloride is cooled to -78° C. Ozone is introduced by bubbling the gas into the solution through a glass tube until a blue color persists. The solution is then purged with a stream of argon and 1 mL of methyl sulfide is added. The solution is diluted with 20 mL of ether and washed with water. The organic layer is separated and allowed to stand over magnesium sulfate then concentrated in vacuo to give 283 mg (93%) of 3-(2-oxoethoxy)benzoic acid as a colorless oil. The product is utilized in the next reaction without further purification: m.p. 120°-130°; the 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (KBr) 3400, 3000, 1680, 1590 cm-1 ; MS (CI low res) m/e 181 (M+H), 163, 139, 119.

reactant | 3-(2-propenyloxy)benzoic acid | 1.68 mmol, 300 mg | C(C=C)OC=1C=C(C(=O)O)C=CC1 | C10H10O3
reactant | Ozone | O=[O+][O-] | O3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-oxoethoxy)benzoic acid | 283 mg, 93% | O=CCOC=1C=C(C(=O)O)C=CC1 | C9H8O4
